US07777047B2
ethyl {4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetate
To a solution of N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (0.700 g) in N,N-dimethylformamide (16 ml) were added ethyl piperazin-1-ylacetate (0.568 g) and triethylamine (0.46 ml), and the mixture was stirred at room temperature for 5 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:hexane=50:50-100:0), and recrystallized from ethyl acetate-hexane to give the title compound (0.531 g, yield 57%) as colorless crystals.

reactant | N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.700 g | ClCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H14ClN3O2S3
reactant | ethyl piperazin-1-ylacetate | 0.568 g | N1(CCNCC1)CC(=O)OCC | C8H16N2O2
reactant | triethylamine | 0.46 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | ethyl {4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetate | 0.531 g, yield 57% | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CN1CCN(CC1)CC(=O)OCC)S(=O)(=O)C=1SC=CC1 | C25H29N5O4S3
